US05081287
Under an argon atmosphere, a stirred mixture of 101.0 grams (0.60 mole) of 10-undecenal and 251.9 grams (1.20 moles) of dibromodifluoromethane was cooled to 0° to -5° C., and a solution of 314.9 grams (1.20 moles) of triphenylphosphine in 1100 ml of N,N-dimethylacetamide was added dropwise during a five to ten minute period. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature where it was stirred for two hours. After this time a small portion from 70.5 grams (1.20 mole) of zinc powder was added to the reaction mixture. The reaction mixture was warmed to approximately 34° C. with an external heat source to initiate further reaction. Upon commencement of the reaction, the reaction mixture temperature rose to 44° C. The remainder of the 70.5 grams of zinc powder was added portionwise during a ten to twenty minute period. Upon completion of addition, the reaction mixture was warmed to 85°-90° C. where it stirred vigorously for two hours. After this time the reaction mixture was cooled to ambient temperature, and 400 ml of water was added. The reaction mixture was stirred for 30 minutes and then was allowed to stand for 18 hours. After this time the reaction mixture was subjected to a steam distillation using pentane as the extraction solvent. The pentane distillate was concentrated under reduced pressure to a residual oil. The residual oil was heated at 94° C. to remove any N,N-dimethylacetamide. The remaining oil was distilled under reduced pressure, yielding 24.3 grams of 1,1-difluoro-1,11-dodecadiene; b.p. 133° C./66 mm. The nmr spectrum was consistent with the proposed structure.

reactant | 10-undecenal | 0.60 mole, 101.0 grams | C(CCCCCCCCC=C)=O | C11H20O
reactant | dibromodifluoromethane | 1.20 moles, 251.9 grams | BrC(F)(F)Br | CBr2F2
reactant | triphenylphosphine | 1.20 moles, 314.9 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 400 ml | O | H2O
solvent | N,N-dimethylacetamide | 1100 ml | CN(C(C)=O)C | C4H9NO
catalyst | zinc | 1.20 mole, 70.5 grams | [Zn] | Zn
catalyst | zinc | 70.5 grams | [Zn] | Zn
product | 1,1-difluoro-1,11-dodecadiene | 24.3 grams | FC(=CCCCCCCCCC=C)F | C12H20F2
